US08293768B2
Synthesis of ethyl 5-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 50, making variations as required to replace (2-bromoethoxy)(tert-butyl)dimethylsilane with 4-(chloromethyl)benzonitrile to react with ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate, the title compound was obtained as a cream solid in 86% yield: 1H NMR (300 MHz, CDCl3) δ 7.66 (d, J=8.1 Hz, 2H), 7.43 (d, J=8.1 Hz, 2H), 6.18 (s, 1H), 4.53 (s, 2H), 4.28 (q, J=7.1 Hz, 2H), 3.89-3.81 (m, 2H), 3.52-3.43 (m, 2H), 2.50 (s, 3H), 1.34 (t, J=7.1 Hz, 3H); MS (ES+) m/z 370.2 (M+1).

reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | 4-(chloromethyl)benzonitrile | ClCC1=CC=C(C#N)C=C1 | C8H6ClN
reactant | ethyl 3-methyl-5-(2-oxoimidazolidin-1-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C(NCC1)=O)C(=O)OCC | C11H14N2O3S
product | ethyl 5-(3-(4-cyanobenzyl)-2-oxoimidazolidin-1-yl)-3-methylthiophene-2-carboxylate | 86% yield | C(#N)C1=CC=C(CN2C(N(CC2)C2=CC(=C(S2)C(=O)OCC)C)=O)C=C1 | C19H19N3O3S
